US07947692B2
A mixture of Piperazine-1-carboxylic acid tert-butyl ester (1.80 g, 9.68 mmol), potassium carbonate (2.0 g, 14.5 mmole) and Bromo-(3-trifluoromethyl-phenyl)-acetic acid methyl ester (3.0 g, 9.65 mmol) in N,N-dimethylformamide (40 mL) was stirred at room temperature overnight. Concentration gave a crude material which was partitioned between methylene chloride and water. The organic layer was dried over magnesium sulfate and concentrated to give an oil. The crude oil was loaded onto an Isco 120 g column and eluted using 20% ethyl acetate/hexanes to yield 4-[Ethoxycarbonyl-(3-trifluoromethyl-phenyl)-methyl]-piperazine-1-carboxylic acid tert-butyl ester (3.0 g, 74% yield) as a colorless oil. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | Piperazine-1-carboxylic acid tert-butyl ester | 9.68 mmol, 1.80 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 14.5 mmole, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Bromo-(3-trifluoromethyl-phenyl)-acetic acid methyl ester | 9.65 mmol, 3.0 g | COC(C(C1=CC(=CC=C1)C(F)(F)F)Br)=O | C10H8BrF3O2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 4-[Ethoxycarbonyl-(3-trifluoromethyl-phenyl)-methyl]-piperazine-1-carboxylic acid tert-butyl ester | 3.0 g, 74% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC(=CC=C1)C(F)(F)F)C(=O)OCC | C20H27F3N2O4
